US05057505
1.30 g (3.2 mmol) of 1-(4-methylthiazol-2-ylamino)methane-1,1-diphosphonic acid tetraethyl ester are heated in 20 ml of 1N hydrochloric acid at 100° for 20 hours. After cooling, 20 ml of methanol are added. During subsequent stirring, the product separates out in the form of fine white crystals. The filtrate is subsequently washed with methanol and petroleum ether. Yield: 615 mg (67% of the theoretical yield) of 1-(4-methylthiazol-2-ylamino)methane-1,1-diphosphonic acid of m.p. 294° (decomposition).

reactant | 1-(4-methylthiazol-2-ylamino)methane-1,1-diphosphonic acid tetraethyl ester | 3.2 mmol, 1.30 g | C(C)OP(OCC)(=O)C(P(OCC)(=O)OCC)NC=1SC=C(N1)C | C13H26N2O6P2S
reactant | methanol | 20 ml | CO | CH4O
solvent | hydrochloric acid | 1N, 20 ml | Cl | ClH
product | 1-(4-methylthiazol-2-ylamino)methane-1,1-diphosphonic acid | CC=1N=C(SC1)NC(P(O)(=O)O)P(O)(=O)O | C5H10N2O6P2S
